US09084794B2
e) 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride
1,1-Dimethylethyl 4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate was dissolved in ethanol (300 mL) and cooled over an ice bath. A 4M solution of hydrogen chloride in dioxane (300 mL) was added, such that the temperature remained low. The ice bath was removed and the mixture was stirred at ambient temperature overnight. The solid was collected, washed with a little ethanol and diethyl ether to give the title product (47.1 g, 58%). The mother liquors were treated with diethyl ether (1.2 L), stirred for 30 min, and the solid was collected and dried to give a total combined yield of 78% of the title product (63.69 g) over the three steps. MS(ES)+ m/e 211.0[M+H+]; 1H NMR (400 MHz, DMSO-d6) δ 9.17-8.64 (m, 2 H), 4.04 (s, 2 H), 3.14 (d, J=13.1 Hz, 2 H), 3.01-2.85 (m, 2 H), 2.83-2.71 (m, 1 H), 1.96-1.83 (m, 2 H), 1.83-1.68 (m, 2 H), 0.76-0.67 (m, 2 H), 0.64-0.55 (m, 2 H).

reactant | 1,1-Dimethylethyl 4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | C1(CC1)N1C(COC2(C1)CCN(CC2)C(=O)OC(C)(C)C)=O | C16H26N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 47.1 g, 58% | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O | InChI=1S/C11H18N2O2.ClH/c14-10-7-15-11(3-5-12-6-4-11)8-13(10)9-1-2-9;/h9,12H,1-8H2;1H
